Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pedestrian struck
 
Major Surgical or Invasive Procedure:
___ - I+D and intramedullary rod in right tibia
 
History of Present Illness:
___ with h/o HTN, former alcoholism, depression/anxiety who was 
a pedestrian struck by motor vehicle, transferred to ___ on 
___ with R shoulder pain and RLE pain. He denied head strike 
or LOC. He had obvious deformity and open fracture of the RLE on 
the scene. He was hemodynamically stable on presentation to 
___ ED. Initial FAST was equivocal but CT scan of 
head/neck/torso was negative. He was found to have R scapular 
body fracture, open tib/fib fracture. He underwent repair of 
tib/fib fracture uneventfully on ___ with irrigation and 
debridement, intramedullary rod fixation of right tibia 
fracture, and closed reduction of right fibula fracture. EBL was 
150cc. 
 
He also reports that he had abstained from alcohol for the last 
8 months until 3 weeks ago. Since then, he has been drinking 4 
vodkas/night and bought 5 beers on the day of his injury.  
 
Over the next ___, he was noted to be perseverating, hitting his 
call button often. He pulled out his Foley ___ ___. Psychiatry 
was consulted and recommended Ativan for CIWA, propranolol for 
anxiety, IV thiamine, SW consult. He was placed on CIWA 
yesterday, not scoring much until this afternoon. Low grade 
fevers to 100.8 around ___ last 2 nights, UA from admission and 
CXR unrevealing. CT chest showed GGOs in R lung. No BMs since 
admission.  
 
Transfered to medical service today for continued 
encephalopathy. At that time he was noted to have BP 84/palp, HR 
___. EKG shows ST elevation in III and ST depression laterally. 
Troponin 1.08. He was taken to the cath lab where multivessel 
disease with 80% proximal LAD lesions, 80% ostial diagonal 
lesions, 90% proximal LCx lesions and a tight RCA thrombotic 
proximal lesion which was thought to be the culprit lesion 
causing STEMI and hypotension were found. Status post 2 BMS in 
RCA and Bivalirudin and Plavix 300mg in cath lab. 
 
Upon arrive to the CCU, patient was very aggitated and 
struggling against restraints. 98.5, 150/44, 92, 17, 100% 3L
 
ROS: Patient was aggitated and altered. Could not answer ROS 
questions. 
 
Past Medical History:
HTN  
Depression/Anxiety - no prior SI  
Alcoholism - prior withdrawal seizures  

 
Social History:
___
Family History:
Multiple family members with alcoholism.  

 
Physical Exam:
ADMISSION EXAM from ___:
VS: 98 117/96 23 99%RA
Eyes, ENT, Neck, Resp, CV, GI, GU, LN, Neuro, Psych - within 
normal limits
Chest notable for R hematoma on shoulder blade
MSK: TTP R should blade, open R tib-fib fracture
Skin: Abrasion R arm
 
TRANSFER EXAM TO CCU:
VS: 98.5, 150/44, 92, 17, 100% 3L
Gen: awake, A&Ox1, diaphoretic, struggling against 4 point 
restraints
HEENT: EOMI, PERRL, MMM, OP clear  
Neck: no JVD, no LAD  
CV: regular rate and rhythm, no murmurs  
Resp: CTAB, no wheezes or crackles  
GI: soft NTND no HSM, +BS  
Ext: Right femoral cath site dressed with trace blood. Soft to 
palpation. +DP pusles bilaterally. left tibia with staples over 
incision site that is c/d/i. No c/c/e
Neuro: A&Ox1. Speech intact and coherent though often 
inappropriate. 
 
DISCHARGE EXAM:
98.6, HR 67-88, BP 106-127/67-88, 98% on RA, RR 18
GEN: NAD, pleasant and cooperative
NEURO: ___ pain in Right leg. No chest pain. A&Ox3
CV: RRR< Normal S1,S2. No murmurs rubs or gallops.
RES: Lungs CTA throughout.
ABD: ABD soft NT/ND.
SKIN: warm and well perfused. Dressing on right lower leg with 
minimal ss drainage. No purulence.
VASC: Pulses postive throughout.
 
Pertinent Results:
Admission Labs:
___ 06:40PM   ASA-NEG ETHANOL-19* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:40PM   WBC-8.4 RBC-4.73 HGB-14.3 HCT-42.7 MCV-90 
MCH-30.3 MCHC-33.6 RDW-13.9
___ 06:40PM   PLT COUNT-296
___ 06:40PM   ___ PTT-20.3* ___
 
--
IMAGING:
___ - right tib/fib: extensively comminuted and displaced 
fractures of the mid shafts of the right tibia and fibula. 
 
___ CXR - apparent mediastinal widening, moderate sized hiatal 
hernia
 
___ - CT head/c-spine: no acute (chronic small vessel ischemic 
disease), multilevel degenerative changes with mild-moderate 
central canal stenosis caused by posterior osteophytes + disc 
bulges @ C5-C6, C6-7
 
___ - CT Torso: comminuted, minimally displaced right scapular 
fracture, scattered ground-glass ill-defined bronchovascular 
nodular opacities in RML/RUL, mild soft tissue fat stranding in 
right buttock
 
___ XR right shoulder: scapular fx; mild AC joing 
osteoarthritis 
 
___ ECHO: There is mild symmetric left ventricular hypertrophy 
with normal cavity size. There is mild regional left ventricular 
systolic dysfunction with severe inferior and inferolateral 
hypokinesis. A dense endocardial stripe is seen in the basal 
inferolateral wall, consistent with acute myocardial edema 
secondary to acute ischemia. The remaining segments contract 
normally (LVEF = 40-45%). The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion. The mitral 
valve leaflets are structurally normal. There is no pericardial 
effusion. IMPRESSION Mild regional left ventricular systolic 
dysfunction, most consistent with an evolving 
inferior/inferolateral myocardial infarction. 
 
___ Cardiac Cath (PRELIM):
___ COMMENTS:  Initial angiography revealed 80% mid LAD 
disease, 80% ostial diagonal disease, 90% proximal LCx disease, 
and a tight thrombotic proximal RCA which was thought to be the 
culprit lesion for the STEMI.  We planned to treat the lesion 
with PTCA and stenting.  Bivalirudin was started 
prophylactically.  A 6 ___ JR4 guiding catheter provided good 
support for the procedure.  A 0.014" Prowater wire crossed the 
lesion with minimal difficulty.  The lesion was dilated with a 
2.0 x 8mm APEX OTW balloon at ___ ATM.  A 2.0 x ___ MINI VISION 
RX stent was deployed at 18 ATM.  Final angiography revealed no 
in-stent residual stenosis, no angiographically apparent 
dissection, and TIMI 3 flow.  The patient left the lab free of 
angina in stable condition. 
 
COMMENTS:      
1.  Selective coronary angiography of this right dominant system 
revealed angiographically apparent disease in three vessels. The 
LMCA had no obstructive disease. The LAD had a 80% proximal with 
80% ostial diagonal lesions. The LCx had a 90% proximal lesion. 
The RCA had a tight thrombotic proximal lesion which was thought 
to be the culprit lesion causing STEMI and hypotension. 
2.  Limited resting hemodynamic showed relatively low central 
aortic pressures of 98/56 mmHg. 
3.  Successful PCI of the RCA with a 2.0 x 12mm MINI VISION bare 
metal stent.  Final angiograpy revealed no in-stent residual 
stenosis, no angiographically apparent dissection, and TIMI 3 
flow. 
   
FINAL DIAGNOSIS:     
1. Inferior- inferolateral STEMI in this patient with MVA with 
multiple fractures and low Hct 23% treated with BMS to the 
acutely thrombotic RCA. 
2. Continue ASA 81 mg and Plavix 75mg daily for at least 1 month 
if not longer. 
3. There is residual unrevascularized disease which may need 
CABG in future if continues to have anginal symptoms. 
4. Admit to CCU for post STEMI care. 
 
___ CXR: IMPRESSION:   1.  Retrocardiac opacity in the setting 
of low lung volumes is likely atelectasis, although in the 
proper clinical setting, pneumonia cannot be excluded. 2.  
Partially imaged right scapula fracture. 

___ ECHO: The left atrium is mildly dilated. There is moderate 
symmetric left ventricular hypertrophy. There is mild to 
moderate regional left ventricular systolic dysfunction with 
thinned and echodense inferior / inferolateral segments with 
akinesis/hypokinesis and inferoseptal akinesis / hypokinesis. 
Right ventricular chamber size and free wall motion are normal. 
The aortic root is mildly dilated at the sinus level. The 
ascending aorta is mildly dilated. The aortic arch is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is at least 
mild pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. Compared with the 
prior study (images reviewed) of ___, regional wall 
motion abnormalities are similar although better visualized in 
the current study.  
 
Labs on Discharge:
___ 06:20AM BLOOD WBC-8.7 RBC-3.53* Hgb-10.6* Hct-33.3* 
MCV-94 MCH-30.1 MCHC-31.9 RDW-15.9* Plt ___
___ 06:20AM BLOOD Neuts-66.8 ___ Monos-5.2 Eos-6.9* 
Baso-0.4
___ 06:20AM BLOOD Glucose-86 UreaN-20 Creat-1.2 Na-137 
K-4.4 Cl-100 HCO3-30 AnGap-11
___ 06:20AM BLOOD ALT-67* AST-53* AlkPhos-106 TotBili-1.0
___ 06:20AM BLOOD Calcium-8.6 Phos-3.7 Mg-2.___ with HTN, alcoholism who p/w tib/fib fracture, scapular fxr 
s/p MVC, now with anemia, altered mental status, and ___ 
transferred to CCU for STEMI with 2BMS to RCA.
 
ORTHO SERVICE:
The patient was admitted to the acute care surgery service with 
an open right tib-fib fracture and a right scapular fracture.  
He was taken to the operating room by orthopedic surgery on 
___ for an incision and drainage and ORIF of his right tibia.  
A vac was placed.  A XR of his right shoulder was done on HD 2 
that confirmed the known right scapular fx and showed chronic 
osteoarthritis. Imaging on admission had shown questionable 
pulmonary contusios but the patient was weaned of oxygen and 
asymptomatic.  His respiratory status was closely monitored. On 
HD 2, the patient had episodes of anxiety and questionable 
suicidal ideation. Psychiatry was consulted. His tertiary survey 
revealed no additional injuries, and he was transferred to the 
orthopedic surgery team.
 
CCU SERVICE:
 
Active issues: 
# STEMI: While on the medicine floor patient became hypotensive 
SBP in the ___ and EKG showed 0.5-1mm STE in III,aVF,aVR with 
profound ___ mmSTD V2-V6, I and aVL. ECHO showed apical 
hypokenisa/akenisa. Angioraphy showed multivessel disease with 
80% proximal LAD lesions, 80% ostial diagonal lesions, 90% 
proximal LCx lesions and a tight RCA thrombotic proximal lesion 
which was thought to be the culprit lesion causing STEMI and 
hypotension. 2 bare metal stents were placed into the RCA 
lesion. Given multivessel disease, if patient continues to have 
angina, may need CABG in the future. Patient was given 
bivalirudin before cath. ___ was initially held in setting 
of ___, and was later started. He did not have chest pain in his 
recovery period, and his cardiac enzymes downtrended. He was 
discharged with plavix 75mg daily, ASA 81mg daily, Atorvastatin 
80 mg daily, metoprolol XL 100mg, and Valsartan 80mg daily. He 
was arranged for follow up in cardiology clinic at the ___.
 
# PUMP: ECHO showed EF of 40%, with moderate symmetric left 
ventricular hypertrophy, mild to moderate regional left 
ventricular systolic dysfunction, with thinned and echodense 
inferior/inferolateral segments with akinesis/hypokinesis and 
inferoseptal akinesis/hypokinesis. He was started on metoprolol 
and valsartan. He will follow up in cardiology clinic, and will 
likely need a repeat echo as outpatient to evaluate his cardiac 
function. 
 
# Encephalopathy: His serum alcohol level was elevated on 
admission, and he exhibited symptoms of withdrawal during this 
admission. He has a history of withdrawal seizures and was 
drinking heavily prior to admission and still within the 72-96 
hour window for DT. When CIWA was discontinued patient became 
more diaphoretic and agitated. While this is likely alcohol 
withdrawal, other etiologies of delirium including medications 
(benzos and opidates), metabolic (hyponatremia), infection, 
anemia, and decreased forward flow due to MI may also be 
contributing. He was given Lorazepam ___ Q1H PRN for CIWA > 10 
as we as folate, thiamine, multivitamin. He was weaned off 
benzodiazepines, and received a short course of haldol (0.5mg 
BID prn) prior to discharge. At the time of discharge, he was 
fully alert and oriented, and did not have symptoms of alcohol 
withdrawal.
 
# Anemia: Hct was 24 down from 42 at admission at POD #3. There 
is likely a combination of intraoperative loss, myelosuppression 
from alcohol vs active bleeding. No signs of active bleeding. No 
known h/o GIB or anemia.  
He was transfused a total of three units while in the hospital 
and his Hct went up appropriately. At the time of discharge his 
hematocrit was stable at 33.
 
# Acute Kidney Injury: Cr 1.4 up from baseline 0.8 at admission, 
BUN also up to 32 from ___ yesterday, implying prerenal 
component. DDx also includes ATN, AIN. Patient was hypotensive 
SBP to the ___, he received gentamicin post-op, and had 220cc of 
constrast during cath. UOP has been adequate so obstruction 
seems unlikely. We monitoed his Cr and renally dosed his 
medications. His valsartan and chlorthalidone were initially 
held, and his valsartan was restarted once his renal function 
improved. At the time of discharge, his Cr was stable at 1.2 
(baseline 0.9-1.1).
 
# R open grade iiiB Tib/Fib fracture and R scapular body 
fracture. s/p I&D and ORIF of open R tib/fib fracture on ___. 
Given Ancef pre and post-op and Gentamicin for 3 days post-op. 
He developed cellulitis around his surgical site in the days 
post-op, and was treated with vancomycin. At the time of 
discharge, his RLE erythema and edema were much improved. He was 
transitioned to oral clindamycin on discharge, and will have 
follow up in ___ clinic.
  
# Leukocytosis: Differential: infection vs. acute stress from 
the STEMI. WBC initially 8, trended up to 12.7 on HD#1, then 
trended down until ___ when it rose again to 12.6 then back 
down to 9.0 on ___. UA and CXR underwhelming for infection 
from admission. New hardware placed during surgery ___. 
Received cefazolin pre and post-op, and gentamicin for 3 days 
post-op. Has had low grade fevers to 100.8 while on standing 
acetaminophen and IV gentamycin. No localizing signs/symptoms on 
exam or history, CT chest from admission with ? aspiration in R 
lung. CXR shows possible retrocardiac opacity in setting of low 
lung volumes, atelectasis vs infection. We continued to trend 
his WBC, fever curve and symptoms. On ___ he spiked a fever to 
101.2 and was noted to have increasing redness of left lower 
extremity surrounding the surgical incision. He was started on 
vancomycin for his right lower leg cellulitis, and was 
discharged on oral clindamycin. 
 
# Hyponatremia: appeared euvolemic on exam, his serum Na 
improved to 133 over hospital stay.
 
Chronic issues: 
# HTN: Started on metoprolol. Initially held home Valsartan in 
setting of ___. Held HCTZ. Resumed Valsartan when kidney injury 
resolved. Home on Metoprolol and Valsartan. 
 
# Depression: Continued home wellbutrin.
 
Transitional issues:
- He should have a stress test and repeat echocardiogram as 
outpatient to evaluate his heart function as he developed a 
STEMI during this admission.

- If he develops symptoms related to his STEMI in the future, he 
should be evaluated for a possible CABG.
 
- He should follow up with orthopedics to evaluate his right leg 
tib/fib fracture s/p fixation. Please also evaluate his 
cellulitis to ensure that it has resolved.
 
- He was discharged with metoprolol 100mg XL and valsartan 80mg. 
Please check his blood pressure and heart rate, as well as renal 
function, and adjust these medications as appropriate.
 
- He will need outpatient counseling and / or detox for his 
history of EtOH abuse. He was hit by a car while intoxicated, 
and developed complications in the hospital as a result. He will 
also need follow up to ensure that he is taking his medications 
and able to care for himself.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 240 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. traZODONE 100 mg PO HS:PRN insomina 
4. BuPROPion (Sustained Release) 300 mg PO QAM 
5. Gabapentin 600 mg PO TID 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 300 mg PO QAM 
2. Gabapentin 600 mg PO TID 
3. traZODONE 100 mg PO HS:PRN insomina 
4. Valsartan 240 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
7. Clopidogrel 75 mg PO DAILY 
DO NOT STOP UNLESS DIRECTED BY ___. ___ 
___ *clopidogrel 75 mg 1 tablet(s) by mouth dialy Disp #*30 
Tablet Refills:*11
8. FoLIC Acid 1 mg PO DAILY 
9. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
10. Multivitamins 1 TAB PO DAILY 
11. Sarna Lotion 1 Appl TP BID:PRN rash, itching 
12. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
13. Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl [Cleocin] 300 mg 1 capsule(s) by mouth every 
6 hours Disp #*28 Capsule Refills:*0
14. Nitroglycerin SL 0.4 mg SL PRN chest pain 
If you do not experience relief of chest pain you should call 
___.  
RX *nitroglycerin 0.4 mg 1 tab sublingually every 5 minutes x 3 
Disp #*90 Tablet Refills:*3
15. TraMADOL (Ultram) 50-100 mg PO Q6H:PRN pain 
RX *tramadol 50 mg ___ tablet(s) by mouth every 6 hours Disp 
#*56 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ST elevation Myocardial infarction
Acute on chronic diastolic/systolic heart failure
Alcoholism
open grade III tib/fib fracture
right scapular body fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after being hit by a car you 
had a heart attack. We took you to a procedure called a cardiac 
catheterization to look at the arteries that supply the heart 
muscle with oxygenated blood which revealed that you had fresh 
clot in your right coronary artery blocking that artery. You 
also have two other blockages in the LAD or left anterior 
descending artery as well as the left circumflex artery. We 
fixed the right coronary artery by placing two stents to open 
the blockage as we thought that was the blockage causing the 
problem. You still have two blockages that we will treat for now 
with medications but becuase of this it is very important that 
you report any symptoms of chest pain to Dr. ___ if 
unrelieved call ___.
 
Because of your heart attack you are now on the following 
medications:
1. Aspirin 81mg daily.
2. Atorvastatin 80mg daily (an anticholesterol medication)
3. Plavix 75 mg daily : This keeps the stent open and should not 
be stopped for any reason unless Dr. ___ says to 
stop it. Stopping this medication early COULD cause you to have 
another lifethreatening heart attack)
4. Metoprolol Xl 100mg daily: This decreases the workload of the 
heart.
5. Valsartan 80mg daily: This medication decreases the pressure 
the heart has to pump against. 
6. Nitroglycerine as needed with chest pain: these are tabs you 
place under your tongue and use only when you have chest pain. 
It is important that if you require this medication because you 
are having chest pain more with increased frequency you should 
contact your cardiologist Dr. ___. 
 
At the time of the heart attack your heart pumping function was 
also depressed or decreased. This is called heart failure. The 
drugs, Valsartan and Metorprolol decrease the workload of the 
heart and should help prevent worseing of your heart failure.
 
Because of your open fracture of your right leg you will need to 
change the dressing every day. If you notice drainage from the 
site that is purulent or with pus you need to call the surgeons 
and be seen. OTher signs of infection are listed below as danger 
signs.
 
Because of your history fo alcoholism it is really important 
that you continue your plans to attend AA and avoid alcohol 
consumption. Becasue of chronic alcohol intake you were in need 
of electrolytes to supplement your poor state of nutrition. You 
should continue taking a multivitamin and thiamine daily.
 
Followup Instructions:
___